US05506267
(6,7-bis(palmitoyloxy)-4-thiaheptanoyl)glycylglycine t-butyl ester
To a solution of 6,7-bis(palmitoyloxy)-4-thiaheptanoic acid as obtained in Reference Example 4 (200 mg) and glycylglycine t-butyl ester hydrochloride (80 mg) in dimethyl formamide (3 ml), triethylamine (0.099 ml) and diethyl cyanophosphate (73 mg) were added, followed by stirring at room temperature for 17 hours. After addition of water, the reaction mixture was extracted with chloroform. The extract was washed with a 5% aqueous solution of citric acid, a saturated aqueous solution of sodium hydrogen carbonate and saturated saline, and dried over anhydrous sodium sulfate, and the solvent was distilled off. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:3) to yield the title compound (191 mg, yield 78%) as a wax-like substance.

reactant | 6,7-bis(palmitoyloxy)-4-thiaheptanoic acid | C(CCCCCCCCCCCCCCC)(=O)OC(CSCCC(=O)O)COC(CCCCCCCCCCCCCCC)=O | C38H72O6S
reactant | glycylglycine t-butyl ester hydrochloride | 80 mg | Cl.C(C)(C)(C)OC(CNC(CN)=O)=O
reactant | diethyl cyanophosphate | 73 mg | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | water | O | H2O
solvent | dimethyl formamide | 3 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.099 ml | C(C)N(CC)CC | C6H15N
product | (6,7-bis(palmitoyloxy)-4-thiaheptanoyl)glycylglycine t-butyl ester | 191 mg, yield 78% | C(C)(C)(C)OC(CNC(CNC(CCSCC(COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)=O)=O)=O | C46H86N2O8S
